US07321040B2
A) (4-Fluoro-phenyl)-(3-isopropyl-[1,2,4]triazolo[4,3-a]pyridin-6-yl)-methanol
To a solution of 3-isopropyl-[1,2,4]triazolo[4,3-a]pyridine-6-carbaldehyde (404.6 mg, 2.13 mmol) in THF (8 mL) at ambient temperature was added 4-fluorophenylmagnesium bromide (3 mL, 1.0 M in THF). The resulting reaction was stirred for 20 hours, then quenched with water, followed by saturated NaHCO3. The reaction mixture was extracted with ethyl acetate, the organics dried over sodium sulfate, and concentrated to give the above named compound (591.3 mg, 97%).

reactant | 3-isopropyl-[1,2,4]triazolo[4,3-a]pyridine-6-carbaldehyde | 2.13 mmol, 404.6 mg | C(C)(C)C1=NN=C2N1C=C(C=C2)C=O | C10H11N3O
reactant | 4-fluorophenylmagnesium bromide | 1.0 M, 3 mL | FC1=CC=C(C=C1)[Mg]Br
solvent | THF | 8 mL | C1CCOC1 | C4H8O
product | (4-Fluoro-phenyl)-(3-isopropyl-[1,2,4]triazolo[4,3-a]pyridin-6-yl)-methanol | FC1=CC=C(C=C1)C(O)C=1C=CC=2N(C1)C(=NN2)C(C)C | C16H16FN3O
